US04468402
8 Grams of m-carboxy-N-(β-ethoxyacryloyl)aniline was added in 80 ml of concentrated sulfuric acid and stirred at a room temperature for 2 hours, then stirred at 50° C. for 1 hour. The reaction mixture was poured into ice and the pH of the mixture was adjusted to pH 3-4 by adding 10N-sodium hydroxide aqueous solution. The precipitated crystals were collected by filtration and washed with water, recrystallized from dimethylformamide to obtain 4.26 g of 5-carboxycarbostyril. Light yellow powdery crystals. Melting point: over 320° C.

reactant | m-carboxy-N-(β-ethoxyacryloyl)aniline | C(=O)(O)C=1C=C(NC(C=COCC)=O)C=CC1 | C12H13NO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 80 ml | S(O)(O)(=O)=O | H2O4S
product | 5-carboxycarbostyril | 4.26 g | C(=O)(O)C1=C2C=CC(NC2=CC=C1)=O | C10H7NO3
